US04822729
2-(m-aminophenoxy)-myristic acid ethyl ester
A solution of 154 g (0.39 mol) of 2-(m-nitrophenoxy)-myristic acid ethyl ester in 500 ml of ethanol is placed in an autoclave. An amount of 8 ml of Raney nickel is added. Reduction of the nitro group is carried out with hydrogen gas at an initial pressure of 10-10.5 MPa and a temperature of 65° C. After the reduction (2 h) the solvent is removed by evaporation.

reactant | 2-(m-nitrophenoxy)-myristic acid ethyl ester | 0.39 mol, 154 g | C(C)OC(C(CCCCCCCCCCCC)OC1=CC(=CC=C1)[N+](=O)[O-])=O | C22H35NO5
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 500 ml | C(C)O | C2H6O
catalyst | Raney nickel | 8 ml | [Ni] | Ni
product | 2-(m-aminophenoxy)-myristic acid ethyl ester | C(C)OC(C(CCCCCCCCCCCC)OC1=CC(=CC=C1)N)=O | C22H37NO3
